US09062050B2
Step 3: 6-fluoroindan-1-ylamine
To a high-pressure flask, add 10% palladium on carbon (1.44 g) in ethanol (100 mL). Add a solution of benzyl-(6-fluoroindan-1-yl)-amine (14.44 g, 59.84 mmol) in ethanol (200 mL). Purge the chamber with nitrogen three times, and then with hydrogen three times. Stir vigorously under hydrogen (60 psi) at 50° C. for two hours. Filter the mixture through Celite® 521 and wash the solids with methanol. Concentrate the filtrate in vacuo to give the title compound as a light brown liquid (9.14 g, 100%). MS (ES) m/z=152 [M+1].

reactant | benzyl-(6-fluoroindan-1-yl)-amine | 59.84 mmol, 14.44 g | C(C1=CC=CC=C1)NC1CCC2=CC=C(C=C12)F | C16H16FN
catalyst | palladium on carbon | 1.44 g | [Pd] | Pd
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 6-fluoroindan-1-ylamine | 9.14 g, 100% | FC1=CC=C2CCC(C2=C1)N | C9H10FN
